US04696938
0.6 g of 6-(2-trifluoromethylphenyl)-2-methylpyridine was dissolved in 50 ml of 1,4-dioxane, 0.43 g of selenium dioxide (Aldrich, Gold Label) was added and the mixture was refluxed for 48 hours. A further 0.7 g, selenium dioxide and 50 ml dioxane were added and refluxing was continued for a further 48 hours. The solids were removed by filtration and the dioxane evaporated to afford crude 6-(2-trifluoromethylphenyl)-2-pyridinecarboxaldehyde.

reactant | 6-(2-trifluoromethylphenyl)-2-methylpyridine | 0.6 g | FC(C1=C(C=CC=C1)C1=CC=CC(=N1)C)(F)F | C13H10F3N
reactant | selenium dioxide | 0.43 g | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 6-(2-trifluoromethylphenyl)-2-pyridinecarboxaldehyde | FC(C1=C(C=CC=C1)C1=CC=CC(=N1)C=O)(F)F | C13H8F3NO
